US04219551
15.5 millimoles of 4-[3-(2,3-epoxypropoxy)-4-methoxyphenyl]-2-pyrrolidone is dissolved in 50 ml. of methanol. After the addition of 15.5 mmol of 1-phenylpiperazine (95% strength), the reaction mixture is heated for 3 hours under reflux. After cooling of the reaction solution, the solvent is removed under vacuum at 40°. The residue is taken up in 50 ml. of 1N hydrochloric acid and extracted twice with 100 ml. of chloroform. The aqueous phase is adjusted to be alkaline with 2N sodium hydroxide solution and thereafter extracted three times with ethyl acetate. The combined ethyl acetate phase are washed with saturated sodium chloride solution, and the solvent, after drying over sodium sulfate, is distilled off under vacuum. The residue is recrystallized from ethanol, thus obtaining in a 61% yield 4-{4-methoxy-3-[3-(4-phenylpiperazin-1-yl)-2-hydroxypropoxy ]phenyl}-2-pyrrolidone, m.p. 143°-144°.

reactant | 4-[3-(2,3-epoxypropoxy)-4-methoxyphenyl]-2-pyrrolidone | 15.5 millimoles | O1C(COC=2C=C(C=CC2OC)C2CC(NC2)=O)C1 | C14H17NO4
reactant | 1-phenylpiperazine | 15.5 mmol | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
solvent | methanol | CO | CH4O
product | 4-{4-methoxy-3-[3-(4-phenylpiperazin-1-yl)-2-hydroxypropoxy ]phenyl}-2-pyrrolidone | 61% yield | COC1=C(C=C(C=C1)C1CC(NC1)=O)OCC(CN1CCN(CC1)C1=CC=CC=C1)O | C24H31N3O4
